US08859591B2
Step B: ethyl 4-(4,4,4-trifluorobutanoyl)benzoate
A mixture of (+/−)-ethyl 4-(4,4,4-trifluoro-1-hydroxybutyl)benzoate (2.10 g, 7.60 mmol) in dichloromethane (28 ml), dimethyl sulfoxide (22 ml), and triethylamine (5.29 ml, 38.0 mmol) was cooled to 0° C. Sulfur trioxide pyridine complex (3.63 g, 22.8 mmol) was added in portions and the mixture stirred at 0° C. for 1 hour, then slowly raised to ambient temperature over 12 h. The reaction was quenched with water and diluted with diethylether. The aqueous layer was extracted with diethylether and the combined organic layers were washed with brine. The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated in vacuo to affording the crude product as a solid that was used without further purification.

reactant | (+/−)-ethyl 4-(4,4,4-trifluoro-1-hydroxybutyl)benzoate | 7.60 mmol, 2.10 g | FC(CCC(O)C1=CC=C(C(=O)OCC)C=C1)(F)F | C13H15F3O3
reactant | triethylamine | 38.0 mmol, 5.29 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 28 ml | ClCCl | CH2Cl2
solvent | dimethyl sulfoxide | 22 ml | CS(=O)C | C2H6OS
product | ethyl 4-(4,4,4-trifluorobutanoyl)benzoate | FC(CCC(=O)C1=CC=C(C(=O)OCC)C=C1)(F)F | C13H13F3O3
